### PR TITLE
style: replace flexible simp calls with simp only (WIP)

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary (WIP)

This draft PR aims to address `linter.flexible` warnings by converting non-terminal `simp` calls to explicit `simp only [...]` throughout the codebase. The goal is for terminal simps that do not cause linter warnings to be kept as bare `simp`, as they are more maintainable — but currently this draft PR is incomplete as it includes several instances of conversions that are not required by the linter.

### Non-terminal simps → `simp only [...]`
When `simp` is followed by other tactics (like `rw`, `exact`, `apply`, `have`, etc.) and this leads to a linter warning, it is converted to `simp only [...]`.

### Terminal simps → bare `simp`
When `simp` is the last tactic in a proof block or bullet point, it should generally remain as a bare `simp`. (These are typically safer because if mathlib changes break them, the proof fails immediately, and so they are easier to maintain than verbose `simp only [...]` lists which nevertheless pass the linter.)

## Remaining Warnings

The version of `BigO.lean` in this draft PR has several remaining non-terminal simp warnings which involved more elaborate fixes than merely converting to `simp only [...]`, and are handled separately in PR #255.

## Caveats

 - This draft PR is INCOMPLETE and currently still has several terminal simp conversions that need to be reverted.
 - It has not been updated to deal with more recent merges into `main`, and will need to be brought up-to-date before merging.

## Related

- Continues work discussed in #238 regarding `linter.flexible`
- Should be merged before #255 (which enables `linter.flexible = true` and fixes BigO.lean)

### CODE REVIEW

File: SpherePacking/ForMathlib/UpperHalfPlane.lean [hunk 1]
```diff
@@ -5,5 +5,10 @@ import Mathlib.Data.Fintype.Parity
 
 theorem ModularGroup.modular_S_sq : S * S = -1 := by
   ext i j
-  simp [S]
```
Comment (b-mehta) [inline SpherePacking/ForMathlib/UpperHalfPlane.lean:8]: Does it work to just remove the simp before fin_cases entirely, and use the terminal simp to close the goals? That'd certainly be more readable here

File: SpherePacking/ModularForms/BigO.lean [hunk 2]
```diff
@@ -12,7 +12,8 @@ open scoped Interval Real NNReal ENNReal Topology BigOperators Nat
 lemma norm_symm (x y : ℤ) : ‖![x, y]‖ = ‖![y,x]‖ := by
   simp_rw [EisensteinSeries.norm_eq_max_natAbs]
   rw [max_comm]
-  simp
+  simp only [Nat.succ_eq_add_one, Nat.reduceAdd, Fin.isValue, Matrix.cons_val_one,
```
Comment (b-mehta) [inline SpherePacking/ModularForms/BigO.lean]: The old version of this proof should be fine, it's a terminal simp

File: SpherePacking/ModularForms/BigO.lean [hunk 3]
```diff
@@ -48,23 +49,25 @@ lemma linear_bigO (m : ℤ) (z : ℍ) : (fun (n : ℤ) => ((m : ℂ) * z + n)⁻
     --have := EisensteinSeries.summand_bound z (k := 1) (by norm_num) ![n, m]
     rw [mul_comm]
     gcongr
-    · simp [(r_pos z).le]
+    · simp only [inv_nonneg, (r_pos z).le]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/BigO.lean]: As before, the three changes here can be reverted

**Comment by cameronfreer** [comment]
I also found a few more terminal `simp`s to revert; I think this may be all.

| Commit                                   | File(s)                                 | Change                                                                   |
  |------------------------------------------|-----------------------------------------|--------------------------------------------------------------------------|
  | 408bb790b8e3721558cc46dbc4113eb59c336ed7 | UpperHalfPlane.lean                     | Simplified proof with decide (9→3 lines)                                 |
  | 4a01c3dd07939b58443501719cba8ee3ab720124 | BigO.lean                               | Reverted terminal simps per reviewer                                     |
  | a44a468e73396e7f1662e6fcd78b26346f13eab7 | Icc_Ico_lems.lean, qExpansion_lems.lean | Reverted 2 more terminal simps                                           |
  | 23c8ed0a8c51e89645238645697bde8baba27fbe | SlashActionAuxil.lean                   | Reverted terminal simps in defs + simplified modular_negI_sq with decide |

File: SpherePacking/ModularForms/BigO.lean (hunk 2 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/BigO.lean]: Reverted in 4a01c3dd07939b58443501719cba8ee3ab720124

File: SpherePacking/ModularForms/BigO.lean (hunk 3 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/BigO.lean]: Reverted in 4a01c3dd07939b58443501719cba8ee3ab720124

File: SpherePacking/ForMathlib/UpperHalfPlane.lean (hunk 1 above)
Comment (cameronfreer) [reply SpherePacking/ForMathlib/UpperHalfPlane.lean:8]: Almost -- it worked with  a final `fin_cases i <;> fin_cases j <;> decide` in 408bb790b8e3721558cc46dbc4113eb59c336ed7

File: SpherePacking/ModularForms/BigO.lean [hunk 4]
```diff
@@ -57,14 +57,15 @@ lemma linear_bigO (m : ℤ) (z : ℍ) : (fun (n : ℤ) => ((m : ℂ) * z + n)⁻
   use max 1 m
   intro b hb
   rw [EisensteinSeries.norm_eq_max_natAbs]
-  simp
+  simp only [Fin.isValue, Matrix.cons_val_zero, Matrix.cons_val_one, Matrix.cons_val_fin_one,
+    Nat.cast_max, Nat.cast_natAbs, Int.cast_abs]
   rw [mul_comm]
   gcongr
-  · simp [(r_pos z).le]
+  · simp only [inv_nonneg, (r_pos z).le]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/BigO.lean]: This was a terminal simp so this change can be reverted

File: SpherePacking/ModularForms/BigO.lean [hunk 5]
```diff
@@ -127,19 +128,21 @@ lemma linear_bigO' (m : ℤ) (z : ℍ) : (fun (n : ℤ) => ((n : ℂ) * z + m)
     --have := EisensteinSeries.summand_bound z (k := 1) (by norm_num) ![n, m]
     rw [mul_comm]
     gcongr
-    · simp [(r_pos z).le]
+    · simp only [inv_nonneg, (r_pos z).le]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/BigO.lean]: As before

File: SpherePacking/ModularForms/BigO.lean [hunk 6]
```diff
@@ -127,19 +128,21 @@ lemma linear_bigO' (m : ℤ) (z : ℍ) : (fun (n : ℤ) => ((n : ℂ) * z + m)
...
     · exact r_pos z
     · exact le_abs_self (r z)
-    · simp; omega
-    · simp [EisensteinSeries.norm_eq_max_natAbs]
+    · simp only [abs_pos, ne_eq, Int.cast_eq_zero]; omega
+    · simp only [norm_eq_max_natAbs, Fin.isValue, Matrix.cons_val_zero, Matrix.cons_val_one,
```
Comment (b-mehta) [inline SpherePacking/ModularForms/BigO.lean]: This second one was terminal and the change should be reverted since the previous was accepted by the linter and more readable

Comment (cameronfreer) [reply SpherePacking/ModularForms/BigO.lean]: Thanks, I've reverted the second one here and the earlier two in e387aa5b1993514a904b4a1043c53a9a3a1abc44.

It looks to me like reverting the first one here is also fine with the linter.

I also caught a few others in `BigO.lean` -- I think this is all of them.

File: SpherePacking/ModularForms/Cauchylems.lean [hunk 7]
```diff
@@ -234,8 +240,9 @@ theorem tendstozero_inv_linear_neg (z : ℍ) (b : ℤ) :
         apply le_of_eq
         congr
         rw [EisensteinSeries.norm_eq_max_natAbs ]
-        simp [hx]
-      simp
+        simp only [Fin.isValue, Matrix.cons_val_zero, Matrix.cons_val_one, Matrix.cons_val_fin_one,
+          Int.natAbs_neg, Int.natAbs_natCast, hx, sup_of_le_right, Nat.abs_cast]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Cauchylems.lean]: This one was also a terminal simp previously.

File: SpherePacking/ModularForms/Eisensteinqexpansions.lean [hunk 8]
```diff
@@ -285,15 +290,16 @@ lemma EQ22 (k : ℕ) (hk : 3 ≤ (k : ℤ)) (z : ℍ) :
   have := (GammaSet_one_Equiv.symm.summable_iff ( f := fun v => eisSummand k v z)).mpr ?_
   · apply this.congr
     intro b
-    simp
+    simp only [comp_apply]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Eisensteinqexpansions.lean]: another bad change

File: SpherePacking/ModularForms/SlashActionAuxil.lean [hunk 9]
```diff
@@ -23,11 +23,23 @@ local notation "Γ " n:100 => Gamma n
...
 def negI : Γ 2 := ⟨⟨!![-1, 0; 0, -1], by simp⟩, by simp⟩
 
-theorem α_eq_T_sq : α = ⟨T ^ 2, by simp [sq, T]; decide⟩ := by
+theorem α_eq_T_sq : α = ⟨T ^ 2,
+  by simp only [T, sq, Gamma_mem, Fin.isValue, SpecialLinearGroup.coe_mul, cons_mul,
+       Nat.succ_eq_add_one, Nat.reduceAdd, vecMul_cons, head_cons, one_smul, tail_cons,
+       empty_vecMul, add_zero, add_cons, Int.reduceAdd, empty_add_empty, zero_smul, zero_add,
+       empty_mul, Equiv.symm_apply_apply, of_apply, cons_val', cons_val_zero, cons_val_fin_one,
+       Int.cast_one, cons_val_one, Int.cast_ofNat, Int.cast_zero, and_self, and_true, true_and]
+     decide⟩ := by
```
Comment (b-mehta) [inline SpherePacking/ModularForms/SlashActionAuxil.lean]: this is pretty unpleasant, can you replace the original with `simp +decide [sq, T]`?

File: SpherePacking/ModularForms/tsumderivWithin.lean [hunk 10]
```diff
@@ -170,8 +173,8 @@ theorem iter_deriv_comp_bound2 (K : Set ℂ) (hK1 : K ⊆ ℍ') (hK2 : IsCompact
       rw [norm_norm]
       simpa using this
     apply mul_le_mul
-    · simp
-    · simp at ineqe
+    · simp only [le_refl]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/tsumderivWithin.lean]: another bad change

File: SpherePacking/ModularForms/Cauchylems.lean [hunk 11]
```diff
@@ -70,15 +72,16 @@ lemma CauchySeq_Icc_iff_CauchySeq_Ico (f : ℤ → ℂ) (hs : ∀ n, f n = f (-n
...
     have hy := hN n
     apply hy
     omega
   have h1 := Filter.Tendsto.mul_const 2 h0
   have hff : Tendsto (fun n : ℕ => 2 * ‖f n‖) atTop (𝓝 0) := by
     rw [Metric.tendsto_atTop] at *
-    simp [dist_eq_norm] at *
+    simp only [gt_iff_lt, ge_iff_le, dist_eq_norm, sub_zero, zero_mul, Complex.norm_mul, norm_ofNat,
+      norm_mul, Real.norm_ofNat, norm_norm] at *
     intro ε hε
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Cauchylems.lean]: this call is generating a new linter warning.

File: SpherePacking/ModularForms/Eisensteinqexpansions.lean (hunk 8 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisensteinqexpansions.lean]: reverted in 78374357e9c6224aaab8f32f34b268e3894d8fbf

File: SpherePacking/ModularForms/tsumderivWithin.lean (hunk 10 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/tsumderivWithin.lean]: reverted in 78374357e9c6224aaab8f32f34b268e3894d8fbf

File: SpherePacking/ModularForms/Cauchylems.lean (hunk 11 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Cauchylems.lean]: fixed in 78374357e9c6224aaab8f32f34b268e3894d8fbf

File: SpherePacking/ModularForms/SlashActionAuxil.lean (hunk 9 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/SlashActionAuxil.lean]: yes, that works, thanks -- updated in 8efa38507d3dc0c272bdaf5ae5041b884bce3e1b

File: SpherePacking/ModularForms/Cauchylems.lean (hunk 7 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Cauchylems.lean]: reverted in 8efa38507d3dc0c272bdaf5ae5041b884bce3e1b

**Comment by cameronfreer** [comment]
I've addressed the above, but am more carefully checking the rest now, and will convert this PR back from being a draft when I'm done soon.

File: SpherePacking/ModularForms/Cauchylems.lean [hunk 12]
```diff
@@ -160,25 +162,26 @@ theorem tendstozero_inv_linear (z : ℍ) (b : ℤ) :
     rw [@tendsto_zero_iff_norm_tendsto_zero]
     conv =>
       enter [1]
-      simp
+      simp only [one_div, norm_inv]
     apply squeeze_zero (g := fun n : ℕ => r z ^ (-1 : ℝ) * ‖![b, n]‖ ^ (-1 : ℝ))
-    · simp
+    · simp only [inv_nonneg, norm_nonneg, implies_true]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Cauchylems.lean]: Here's another one that shouldn't be here

File: SpherePacking/ModularForms/Cauchylems.lean [hunk 13]
```diff
@@ -190,8 +193,9 @@ theorem tendstozero_inv_linear (z : ℍ) (b : ℤ) :
         apply le_of_eq
         congr
         rw [EisensteinSeries.norm_eq_max_natAbs ]
-        simp [hx]
-      simp
+        simp only [Fin.isValue, Matrix.cons_val_zero, Matrix.cons_val_one, Matrix.cons_val_fin_one,
+          Int.natAbs_natCast, hx, sup_of_le_right, Nat.abs_cast]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Cauchylems.lean]: and another

File: SpherePacking/ModularForms/Cauchylems.lean [hunk 14]
```diff
@@ -203,26 +207,27 @@ theorem tendstozero_inv_linear_neg (z : ℍ) (b : ℤ) :
     rw [@tendsto_zero_iff_norm_tendsto_zero]
     conv =>
       enter [1]
-      simp
+      simp only [one_div, norm_inv]
     apply squeeze_zero (g := fun n : ℕ => r z ^ (-1 : ℝ) * ‖![b, -n]‖ ^ (-1 : ℝ))
-    · simp
+    · simp only [inv_nonneg, norm_nonneg, implies_true]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Cauchylems.lean]: and another

File: SpherePacking/ModularForms/Cauchylems.lean (hunk 12 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Cauchylems.lean]: fixed in b7572bca839e4ca67afa939ecc10fb63420f468e and 8504b657a06c65e1de146382c643c75e3efa6478

File: SpherePacking/ModularForms/Cauchylems.lean (hunk 14 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Cauchylems.lean]: fixed in b7572bca839e4ca67afa939ecc10fb63420f468e and 8504b657a06c65e1de146382c643c75e3efa6478

File: SpherePacking/ModularForms/Cauchylems.lean (hunk 13 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Cauchylems.lean]: fixed in b7572bca839e4ca67afa939ecc10fb63420f468e

File: SpherePacking/ModularForms/Cauchylems.lean [hunk 15]
```diff
@@ -164,21 +166,22 @@ theorem tendstozero_inv_linear (z : ℍ) (b : ℤ) :
     apply squeeze_zero (g := fun n : ℕ => r z ^ (-1 : ℝ) * ‖![b, n]‖ ^ (-1 : ℝ))
     · simp
     · intro t
-      have := EisensteinSeries.summand_bound z (k := 1) (by simp) ![b, t]
-      simp at *
+      have := EisensteinSeries.summand_bound z (k := 1) (by simp only [zero_le_one]) ![b, t]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Cauchylems.lean]: the `simp` in this have block was fine before

File: SpherePacking/ModularForms/Cauchylems.lean [hunk 16]
```diff
@@ -207,22 +210,23 @@ theorem tendstozero_inv_linear_neg (z : ℍ) (b : ℤ) :
     apply squeeze_zero (g := fun n : ℕ => r z ^ (-1 : ℝ) * ‖![b, -n]‖ ^ (-1 : ℝ))
     · simp
     · intro t
-      have := EisensteinSeries.summand_bound z (k := 1) (by simp) ![b, -t]
-      simp at *
+      have := EisensteinSeries.summand_bound z (k := 1) (by simp only [zero_le_one]) ![b, -t]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Cauchylems.lean]: this one too

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 17]
```diff
@@ -353,12 +357,12 @@ lemma qexpsummable (k : ℕ) (hk : 3 ≤ (k : ℤ)) (z : ℍ) :
...
     norm_cast
   apply le_trans hr
-  simp
+  simp only [Finset.sum_const, nsmul_eq_mul, Complex.norm_mul, RCLike.norm_natCast, norm_pow]
   norm_cast
   nth_rw 2 [show k = 1 + (k - 1) by omega]
   rw [pow_add]
   gcongr
-  simp
+  simp only [pow_one]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Eisenstein.lean]: I think we could just remove this line?

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 18]
```diff
@@ -370,16 +374,16 @@ lemma Ek_q_exp_zero (k : ℕ) (hk : 3 ≤ (k : ℤ)) (hk2 : Even k) : (qExpansio
   · have hc := congr_fun h 0
     rw [Nat.cast_one] at hc
     rw [← hc]
-    simp [c]
+    simp only [one_div, neg_mul, ↓reduceIte, c]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Eisenstein.lean]: here's another one that should not have been changed

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 19]
```diff
@@ -508,7 +515,7 @@ lemma E6_q_exp : (fun m => (qExpansion 1 E₆).coeff m) =
     Nat.succ_eq_add_one, Nat.reduceAdd, zero_add, mul_one, Nat.reduceMul, Nat.cast_ofNat]
   ring_nf
   rw [Complex.I_pow_six ]
-  have pin : (π : ℂ) ≠ 0 := by simp
+  have pin : (π : ℂ) ≠ 0 := by simp only [ne_eq, ofReal_eq_zero, Real.pi_ne_zero, not_false_eq_true]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Eisenstein.lean]: this should not have been changed

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 20]
```diff
@@ -550,7 +557,7 @@ theorem E4E6_coeff_zero_eq_zero :
   simp only [Finset.antidiagonal_zero, Prod.mk_zero_zero, Finset.sum_singleton, Prod.fst_zero,
     Prod.snd_zero, one_mul, mul_one]
   rw [E4_q_exp_zero]
-  simp
+  simp only [mul_one, sub_self]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Eisenstein.lean]: this should not have been changed

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 21]
```diff
@@ -650,45 +658,53 @@ theorem diffwithinat_prod_1 :
...
+        simp only [mem_ball, dist_zero_right]; exact lt_trans hx two_inv_lt_one
+      rw [← tprod_pow _ (by apply multipliable_lt_one x hx1)]
+    simp only [ne_eq, Nat.add_eq_zero_iff, one_ne_zero, and_false, not_false_eq_true, zero_pow,
+      sub_zero, one_pow, tprod_one]
   apply DifferentiableWithinAt.pow
   have hu := asdf.differentiableOn ?_ ?_
   · apply hu
-    simp
-  · simp
+    simp only [one_div, mem_ball, dist_self, inv_pos, Nat.ofNat_pos]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Eisenstein.lean]: this one should not have been changed

File: SpherePacking/ModularForms/Cauchylems.lean (hunk 15 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Cauchylems.lean]: fixed in f6436513b39f9c60427f57720a38e24d007a413b

File: SpherePacking/ModularForms/Cauchylems.lean (hunk 16 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Cauchylems.lean]: fixed in f6436513b39f9c60427f57720a38e24d007a413b

File: SpherePacking/ModularForms/Eisenstein.lean (hunk 17 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisenstein.lean]: yes, thanks -- fixed in f6436513b39f9c60427f57720a38e24d007a413b

File: SpherePacking/ModularForms/Eisenstein.lean (hunk 18 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisenstein.lean]: fixed in f6436513b39f9c60427f57720a38e24d007a413b

File: SpherePacking/ModularForms/Eisenstein.lean (hunk 19 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisenstein.lean]: fixed in f6436513b39f9c60427f57720a38e24d007a413b

File: SpherePacking/ModularForms/Eisenstein.lean (hunk 20 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisenstein.lean]: fixed in f6436513b39f9c60427f57720a38e24d007a413b

File: SpherePacking/ModularForms/Eisenstein.lean (hunk 21 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Eisenstein.lean]: fixed in f6436513b39f9c60427f57720a38e24d007a413b

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 22]
```diff
@@ -496,7 +501,8 @@ lemma E4_q_exp : (fun m => (qExpansion 1 E₄).coeff m) =
       Rat.cast_one, Rat.cast_div, Rat.cast_ofNat]
     ring_nf
     rw [Complex.I_pow_four ]
-    have pin : (π : ℂ) ≠ 0 := by simp
+    have pin : (π : ℂ) ≠ 0 := by simp only [ne_eq, ofReal_eq_zero, Real.pi_ne_zero,
+      not_false_eq_true]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Eisenstein.lean:505]: here's another bad change

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 23]
```diff
@@ -599,22 +605,23 @@ lemma Delta_cuspFuntion_eq : Set.EqOn (cuspFunction 1 Delta)
...
       · rw [ofComplex_apply_of_im_pos hz]
         rw [Delta_apply, Δ]
         have hq := Function.Periodic.qParam_right_inv (h := 1) ?_ (q := y) hyn0
-        · simp
+        · simp only [coe_mk_subtype]
           have : cexp (2 * ↑π * Complex.I * Periodic.invQParam 1 y) = y := by
             nth_rw 2 [← hq]
             congr 1
-            simp
+            simp only [ofReal_one, div_one]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Eisenstein.lean:624]: and another

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 24]
```diff
@@ -662,13 +669,13 @@ lemma asdf : TendstoLocallyUniformlyOn (fun n : ℕ ↦ ∏ x ∈ Finset.range n
           ext n
           rw [sub_eq_add_neg]
       convert H
-      simp
+      simp only [Finset.prod_apply]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Eisenstein.lean:672]: and another

File: SpherePacking/ModularForms/Eisenstein.lean [hunk 25]
```diff
@@ -682,45 +689,53 @@ theorem diffwithinat_prod_1 :
...
     · intro x hx
-      rw [← tprod_pow _ (by apply multipliable_lt_one x (by simp at *; apply lt_trans hx; exact
-        two_inv_lt_one))]
-    simp
+      simp only [one_div, mem_ball, dist_zero_right] at hx
+      have hx1 : x ∈ ball 0 1 := by
+        simp only [mem_ball, dist_zero_right]; exact lt_trans hx two_inv_lt_one
+      rw [← tprod_pow _ (by apply multipliable_lt_one x hx1)]
+    simp only [ne_eq, Nat.add_eq_zero_iff, one_ne_zero, and_false, not_false_eq_true, zero_pow,
+      sub_zero, one_pow, tprod_one]
```
Comment (b-mehta) [inline SpherePacking/ModularForms/Eisenstein.lean:697]: and another

**Review by b-mehta — CHANGES_REQUESTED** [review]
for the sixth time, here are some more parts in this PR which aren't doing what you claim them to be doing. in the future, please avoid making PRs with such a high volume of issues, and please do not claim things in the PR description which remain inaccurate after many corrections.
